US04225338
1-cyclopropyl-3,3-diphenylurea
The thus formed solution of diphenylcarbamic acid chloride was then added dropwise upon stirring to a mixture of 114 g of cyclopropylamine, 202 g of triethylamine and 500 ml of toluene. During the addition the temperature inside the flask rose to 85° C. Subsequently the reaction mass was heated to boiling point for 15 minutes and then cooled. The precipitated triethylammoniumchloride was removed by suction and the solvent was distilled off in a vacuum. The remaining residue was subjected to recrystallization from diisopropylether. The yield in 1-cyclopropyl-3,3-diphenylurea was 440.2 g (87.2% of the theoretical value). The melting point was 98° C.

reactant | diphenylcarbamic acid chloride | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | cyclopropylamine | 114 g | C1(CC1)N | C3H7N
reactant | triethylamine | 202 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyclopropyl-3,3-diphenylurea | C1(CC1)NC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16N2O
